US08445674B2
A) 3-(3-Chloro-4-trifluoromethoxy-phenylamino)-propionic acid tert-butyl ester
A solution of 9.26 g (42.4 mmol) of 3-chloro-4-trifluoromethoxy-phenylamine and 4.39 ml (42.4 mmol) of 2,6-lutidine in 50 ml of toluene was treated slowly with 7.30 ml (42.4 mmol) of tert-butyl 3-bromopropionate and stirred 2 days at reflux temperature. The reaction was then partitioned between aqueous 10% KHSO4 and EtOAc (3×). The organic phases were washed with 10% NaCl, dried over Na2SO4 evaporated and purified by flash silica gel column (n-heptane:EtOAc 9:1) to yield 9.59 g (60%) of the title compound as brown liquid. MS: 339 (M+, Cl).

reactant | 3-chloro-4-trifluoromethoxy-phenylamine | 42.4 mmol, 9.26 g | ClC=1C=C(C=CC1OC(F)(F)F)N | C7H5ClF3NO
reactant | 2,6-lutidine | 42.4 mmol, 4.39 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyl 3-bromopropionate | 42.4 mmol, 7.30 ml | BrCCC(=O)OC(C)(C)C | C7H13BrO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3-Chloro-4-trifluoromethoxy-phenylamino)-propionic acid tert-butyl ester | 9.59 g, 60% | C(C)(C)(C)OC(CCNC1=CC(=C(C=C1)OC(F)(F)F)Cl)=O | C14H17ClF3NO3
